US07592363B2
5-{4-[2-(4-CHLORO-2-FLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}-1,2,3,4-TETRAHYDRONAPHTHALEN-1-OL
5-{4-[2-(4-chloro-2-fluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}-3,4-dihydronaphthalen-1(2H)-one (14 mg, 0.025 mmol) dissolved in 1.5 mL THF was added to a slurry of LiAlH4 in THF and stirred at room temperature for 2 hours. The reaction mixture was quenched with H2O and stirred for 15 min. Filtration of the mixture was followed by extraction with CH2Cl2. The combined organic phases were dried, evaporated and the crude material was purified by HPLC using a gradient with an acidic mobile phase on an ACE-C8 column to afford 1.2 mg analytically pure product.

reactant | 5-{4-[2-(4-chloro-2-fluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}-3,4-dihydronaphthalen-1(2H)-one | 0.025 mmol, 14 mg | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(OC3=C4CCCC(C4=CC=C3)=O)C=C2)C(F)(F)F)C=C1)F | C31H21ClF4N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 5-{4-[2-(4-CHLORO-2-FLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}-1,2,3,4-TETRAHYDRONAPHTHALEN-1-OL | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(OC3=C4CCCC(C4=CC=C3)O)C=C2)C(F)(F)F)C=C1)F | C31H23ClF4N2O2
